US07262212B2
A mixture of 2-chloro-4-nitro-1H-imidazole (350 mg, 2.37 mmol), 5-azidomethyl-3-(2-methyloxiran-2-ylmethyl)oxazolidin-2-one (500 mg, 2.37 mmol), sodium acetate (214 mg, 2.61 mmol) and ethanol (5 ml) was stirred at 70° C. for 8 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, water was added, and the solution was extracted with methylene chloride. The organic phase was dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/2) to afford 5-azidomethyl-3-[3-(2-chloro-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]oxazolidin-2-one (640 mg, yield 75%) as a light yellow oil.

reactant | 2-chloro-4-nitro-1H-imidazole | 2.37 mmol, 350 mg | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 5-azidomethyl-3-(2-methyloxiran-2-ylmethyl)oxazolidin-2-one | 2.37 mmol, 500 mg | N(=[N+]=[N-])CC1CN(C(O1)=O)CC1(OC1)C | C8H12N4O3
reactant | sodium acetate | 2.61 mmol, 214 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-azidomethyl-3-[3-(2-chloro-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]oxazolidin-2-one | 640 mg, yield 75% | N(=[N+]=[N-])CC1CN(C(O1)=O)CC(CN1C(=NC(=C1)[N+](=O)[O-])Cl)(C)O | C11H14ClN7O5
